US06906133B2
Synthesis of the Homopolymer of Methyldiallylamine·HCl Having an RSV Less than 0.20 dL/g
A four-necked reaction flask was fitted with a glass stir shaft connected to an overhead stirrer, a pH probe, a thermocouple, an addition funnel and a condenser. A Thermowatch® (manufactured by I-2-R, Instruments for Research and Industry Inc., Cheltenham, Pa.) was used to maintain the temperature throughout the reaction. After charging the reaction flask with 109 g of methyldiallylamine (MDAA, 98%), the reaction vessel was cooled with an ice bath. Using an addition funnel, 97 g of 37% hydrochloric acid (HCl) was slowly added to the stirred reaction vessel. The rate of addition was adjusted in order to maintain the temperature of the reaction mixture below 25° C. Upon finishing the addition of hydrochloric acid the ice bath was removed and the reaction mixture was stirred at ambient temperature for one hour. At this point the reaction mixture was a clear light yellow solution. Into this solution of MDAA·HCl, 0.5 g of Versenex® 80 (40% aqueous solution of the tetrasodium salt of ethylenediamine tetraacetate, available from Dow Chemical Co., Midland Mich.) and 200 g of deionized (DI) water was added. A septum was inserted in place of the addition funnel and a sparge of high purity nitrogen gas was started through the reaction mixture. A bubbler was attached at the condenser. The stirrer was started at 500 rpm and an insulated heating mantle was placed on the reaction flask and the reaction mixture was heated to 80° C. The reaction mixture was sparged with high purity N2 for 30 minutes. An aqueous initiator solution was prepared by dissolving 18 g of ammonium persulfate (APS) in 30 mL of DI water followed by sparging of the APS solution with high purity N2 for 30 minutes. While maintaining the N2 sparge and heating the reaction at 80° C., the APS initiator solution was added to the reaction flask using a syringe pump at a rate of 0.30 mL/min. until 10 mL of initiator solution had been added. The reaction temperature was maintained at 80° C. while stirring at 500 rpm for one hour. A second 10 mL portion of initiator solution was then added at 0.30 mL/min. and the reaction mixture was held at 80° C. for one hour after adding this 10 mL portion. The remaining initiator solution was then added at a rate of 0.30 mL/min. When all the initiator solution had been added the reaction mixture was maintained at 80° C. for one additional hour. Heating was then discontinued and 320 mL of deionized water were added. Analysis of the final product solution by 13C NMR showed that a MDAA monomer conversion of 99+% had been achieved. The RSV of the resin was 0.106 dL/g. Total solids of the product was 37.3% and the pH was 2.5.

reactant | methyldiallylamine | 109 g | CN(CC=C)CC=C | C7H13N
reactant | hydrochloric acid | 97 g | Cl | ClH
reactant | ammonium persulfate | 18 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | DI water | 30 mL | O | H2O
solvent | water | 320 mL | O | H2O
product | Methyldiallylamine·HCl | CN(CC=C)CC=C.Cl | InChI=1S/C7H13N.ClH/c1-4-6-8(3)7-5-2;/h4-5H,1-2,6-7H2,3H3;1H
